US08183246B2
5-(4-Methoxyphenyl)-6-phenyl-N-{3-[2-(1H-tetrazol-5-yl)ethoxy]propyl}furo[2,3-d]pyrimidine-4-amine
Stir 137 mg (0.32 mmol) 5-(4-methoxyphenyl)-6-phenyl-N-{3-[2-cyanoethoxy]propyl}furo[2,3-d]-pyrimidine-4-amine, 552 mg (4.8 mmol) trimethylsilylazide and 119 mg (0.48 mmol) di-n-butyltin oxide in 10 ml toluene overnight at 80° C. Then cool the mixture and concentrate by evaporation. Dissolve the residue that remains in methylene chloride and wash with water and sodium chloride solution. Dry the organic phase over magnesium sulphate and concentrate in the rotary evaporator at reduced pressure. Purify the residue by RP-HPLC (column: Gromsil 250 mm×30 mm, 10 μm; acetonitrile/water gradient: 0-3 min 5% acetonitrile, 3-34 min 5%→98% acetonitrile, 34-38 min 98% acetonitrile). 48.6 mg (32% of theor.) of the title compound is obtained as a colourless solid.

reactant | 5-(4-methoxyphenyl)-6-phenyl-N-{3-[2-cyanoethoxy]propyl}furo[2,3-d]-pyrimidine-4-amine | 0.32 mmol, 137 mg | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCOCCC#N)C2=CC=CC=C2 | C25H24N4O3
reactant | trimethylsilylazide | 4.8 mmol, 552 mg | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 0.48 mmol, 119 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Methoxyphenyl)-6-phenyl-N-{3-[2-(1H-tetrazol-5-yl)ethoxy]propyl}furo[2,3-d]pyrimidine-4-amine | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCOCCC2=NN=NN2)C2=CC=CC=C2 | C25H25N7O3
